US08039480B2
817 mg of methyl (S)-2-amino-4,4-difluoro-5-phenylpentanoate (3.36 mmol) were dissolved in 20 ml of dichloromethane, admixed with 1.08 ml of pyridine (4 eq.) and cooled to approx. 5° C. (ice bath). After 10 min, 2.3 ml (1.3 eq.) of a 20% phosgene solution in toluene were added dropwise. The resulting suspension was stirred with ice bath cooling for 4 h and then concentrated under reduced pressure. The residue thus obtained was taken up in toluene and filtered. After the solvent had been removed under reduced pressure, methyl (S)-4,4-difluoro-2-isocyanato-5-phenylpentanoate was obtained as an orange oil which was used without further purification in the subsequent reaction. Yield: 943 mg (quant.)

reactant | methyl (S)-2-amino-4,4-difluoro-5-phenylpentanoate | 3.36 mmol, 817 mg | N[C@H](C(=O)OC)CC(CC1=CC=CC=C1)(F)F | C12H15F2NO2
reactant | pyridine | 1.08 ml, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl (S)-4,4-difluoro-2-isocyanato-5-phenylpentanoate | FC(C[C@@H](C(=O)OC)N=C=O)(CC1=CC=CC=C1)F | C13H13F2NO3
